US20010014428A1
A vessel was charged with 83.1 g of 2-methyl-2-adamantanol and 101 g of trimethylamine, and 200 g of methyl isobutyl ketone was added thereto to form a solution. To the solution was added dropwise 78.4 g of methacrylic acid chloride (1.5 times the molar amount of 2-methyl-2-adamantanol), followed by stirring for about 10 hours at room temperature. After filtration, the resulting organic layer was washed with an aqueous solution of 5 wt % sodium bicarbonate and then washed with water twice. The organic layer was concentrated and then distilled under reduced pressure to obtain 2-methyl-2-adamantyl methacrylate represented by the following formula.

reactant | 2-methyl-2-adamantanol | 83.1 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | trimethylamine | 101 g | CN(C)C | C3H9N
reactant | methacrylic acid chloride | 78.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methyl isobutyl ketone | 200 g | C(C(C)C)C(=O)C | C6H12O
product | 2-methyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C15H22O2
